US07378420B2
D. Synthesis of 1-((4-Fluorophenyl)(1-methylpiperidin-4-yl)methyl)piperazine
A mixture of 4-(chloro(4-fluorophenyl)methyl)-1-methylpiperidine (1.2 g, 4.12 mmol) in butanone (10 ml), anhydrous piperazine (1.43 g, 16.48 mmol), anhydrous K2CO3 (0.54 g, 4.14 mmol) and KI (0.65 g, 4.14 mmol) was refluxed under nitrogen for 18 hours. The mixture was then cooled and filtered and the solvent removed in vacuo. The residue was dissolved in CH2Cl2 (50 ml) and washed with water (30 ml). Drying and removal of the solvent followed by chromatography (CH2Cl2: CH3OH:NH4OH 90:10:0.5) afforded desired product in 62% yield.

reactant | 4-(chloro(4-fluorophenyl)methyl)-1-methylpiperidine | 4.12 mmol, 1.2 g | ClC(C1CCN(CC1)C)C1=CC=C(C=C1)F | C13H17ClFN
reactant | piperazine | 16.48 mmol, 1.43 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 4.14 mmol, 0.54 g | C(=O)([O-])[O-].[K+].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 1-((4-Fluorophenyl)(1-methylpiperidin-4-yl)methyl)piperazine | 62% yield | FC1=CC=C(C=C1)C(N1CCNCC1)C1CCN(CC1)C | C17H26FN3
